US07396844B1
Synthesis of methyl (2S)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]-2-(t-butoxycarbonylamino)propionate
18.9 g (86.2 mmol) of benzyl 4-hydroxypiperidine-1-carboxylate, 25.4 g (86.2 mmol) of methyl (2S)-2-(t-butoxycarbonylamino)-3-(4-hydroxyphenyl)propionate and 27.1 g (103.4 mmol) of triphenylphosphine were dissolved in 500 ml of tetrahydrofuran. 37.5 g (86.2 mmol) of diethyl azodicarboxylate was added to the solution at room temperature, and they were stirred for 15 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, the crude product was obtained, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | benzyl 4-hydroxypiperidine-1-carboxylate | 86.2 mmol, 18.9 g | OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H17NO3
reactant | methyl (2S)-2-(t-butoxycarbonylamino)-3-(4-hydroxyphenyl)propionate | 86.2 mmol, 25.4 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)O | C15H21NO5
reactant | triphenylphosphine | 103.4 mmol, 27.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 86.2 mmol, 37.5 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (2S)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]-2-(t-butoxycarbonylamino)propionate | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C28H36N2O7
